US04067720
50 ml of methyl isocyanate were added to a solution of 15 g of 3-hydroxy-5-benzyl-1,2,4-thiadiazole in 400 ml of isopropyl ether and the mixture was stirred at 20° C for 72 hours. 50 ml of chloroform were added thereto and the mixture was vacuum filtered. The recovered crystals were dried to obtain 10 g of 2-(methylcarbamoyl)-5-benzyl-1,2,4-thiadiazole-3-one melting at 146° C.

reactant | methyl isocyanate | 50 ml | CN=C=O | C2H3NO
reactant | 3-hydroxy-5-benzyl-1,2,4-thiadiazole | 15 g | OC1=NSC(=N1)CC1=CC=CC=C1 | C9H8N2OS
reactant | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | isopropyl ether | 400 ml | C(C)(C)OC(C)C | C6H14O
product | 2-(methylcarbamoyl)-5-benzyl-1,2,4-thiadiazole-3-one | 10 g | CNC(=O)N1SC(=NC1=O)CC1=CC=CC=C1 | C11H11N3O2S
